US07169761B2
A 1.56 M n-hexane solution of n-butyl lithium (3.57 ml) and 2-fluorotoluene (0.66 ml) were added in that order to a suspension of potassium t-butoxide (625 mg) in THF (11 ml) at −78° C. and the mixture was stirred at the same temperature for 1.5 hours. A solution of 2,3,4,6-tetra-O-benzyl-D-(+)-glucono-1,5-lactone (3.00 g) in THF (10 ml) was added dropwise to the reaction mixture and the mixture was stirred at the same temperature for 30 minutes. After the addition of a 1 M aqueous solution of hydrochloric acid, the mixture was heated to room temperature. The reaction mixture was extracted with diethyl ether. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. The filtrate was concentrated and dried to be solid. The resulting residue was dissolved in dichloroethane (5 ml) and acetonitrile (25 ml). Triisopropylsilane (2.27 ml) and boron trifluoride-diethyl ether complex (0.85 ml) were added to the solution at −30° C. After stirring at the same temperature for 30 minutes, saturated aqueous solution of sodium bicarbonate was added to the reaction mixture. The mixture was extracted with diethyl ether. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate-n-hexane) to obtain (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-(2-fluoro-3-methylphenyl)-D-glucitol (559 mg).

reactant | n-butyl lithium | 3.57 ml | C(CCC)[Li]
reactant | 2-fluorotoluene | 0.66 ml | FC1=C(C=CC=C1)C | C7H7F
reactant | potassium t-butoxide | 625 mg | CC(C)([O-])C.[K+]
reactant | 2,3,4,6-tetra-O-benzyl-D-(+)-glucono-1,5-lactone | 3.00 g | C(C1=CC=CC=C1)O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H34O6
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 11 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | n-hexane | 1.56 M | CCCCCC | C6H14
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-(2-fluoro-3-methylphenyl)-D-glucitol | 559 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C(=CC=C1)C)F | C41H41FO5
